US08809530B1
To a mixture of methyl 4-fluoro-3-nitrobenzoate (6.46 g, 32.5 mmole) and methyl piperidine-2-carboxylate (5.57 g, 1.2 equiv) in DMF (80 mL) was added Cs2CO3 (12.7 g). The reaction mixture was stirred at 55° C. overnight. The solid was filtered and the filtrate was evaporated. The residue was recrystallized with EtOAc/Hexane to give Methyl 1-(4-(methoxycarbonyl)-2-nitrophenyl)piperidine-2-carboxylate (9.4 g, 90%).

reactant | methyl 4-fluoro-3-nitrobenzoate | 32.5 mmole, 6.46 g | FC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6FNO4
reactant | methyl piperidine-2-carboxylate | 5.57 g, 1.2 equiv | N1C(CCCC1)C(=O)OC | C7H13NO2
reactant | Cs2CO3 | 12.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | Methyl 1-(4-(methoxycarbonyl)-2-nitrophenyl)piperidine-2-carboxylate | 9.4 g, 90% | COC(=O)C1=CC(=C(C=C1)N1C(CCCC1)C(=O)OC)[N+](=O)[O-] | C15H18N2O6
